US07399759B2
4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxylic acid
A mixture of 2-mercaptoterephthalic acid (2.0 g, 10 mmol), 2-cyanopyridine (1.3 g, 11 mmol) and pyridine (10 ml) was refluxed for 8 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from methanol-diisopropylether to give the titled compound (1.22 g, 42%).

reactant | 2-mercaptoterephthalic acid | 10 mmol, 2.0 g | SC1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H6O4S
reactant | 2-cyanopyridine | 11 mmol, 1.3 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazine-7-carboxylic acid | 1.22 g, 42% | O=C1N=C(SC2=C1C=CC(=C2)C(=O)O)C2=NC=CC=C2 | C14H8N2O3S
